US04737502
(a) 7-(6-Bromo-5-keto-hexyl)-1,3-dimethylxanthine
9.7 Grams (0.06 moles) of bromine were added to a solution of 15 g (0.054 moles) of 7-(5-keto-hexyl)-1,3-dimethylxanthine in 100 ml of anhydrous methanol, at 10° C. with stirring. After 30 minutes at the same temperature, stirring was continued for 7 more hours at room temperature. The mixture was then concentrated under reduced pressure till a residual volume of 30 ml, diluted with 30 ml of water, added with 3 drops of 96% sulphuric acid and stirred for 4 hours at room temperature, to hydrolyze any dimethylketal formed, then diluted with 100 ml of water and alkalized with a 10% sodium bicarbonte aqueous solution. The mixture was extracted with 2×80 ml of methylene chloride, the organic phase was washed with water, dried and evaporated under reduced pressure. The residue was dissolved in 30 ml of ethyl acetate, cooled and crystallized at 5°-10° C. 7.5 Grams (40%) of the title compound were obtained, melting at 106°-109° C., which was directly used in the next step.

reactant | bromine | 0.06 moles | BrBr | Br2
reactant | 7-(5-keto-hexyl)-1,3-dimethylxanthine | 0.054 moles, 15 g | O=C(CCCCN1C=NC=2N(C(N(C(C12)=O)C)=O)C)C | C13H18N4O3
reactant | sodium | [Na] | Na
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 7-(6-Bromo-5-keto-hexyl)-1,3-dimethylxanthine | 40% | BrCC(CCCCN1C=NC=2N(C(N(C(C12)=O)C)=O)C)=O | C13H17BrN4O3
